US04731447
Step B: 3-[2-(3-chlorophenyl)ethyl]-N-(1,1-dimethylethyl)-2-pyridine carboxamide
31.5 g of N-(1,1-dimethylethyl)-3-methyl-2-pyridine carboxamide is dissolved in 600 mL of dry tetrahydrofuran and the resulting solution is cooled to -40° C. Two equivalents of n-butyllithium in hexane are added while the temperature is maintained at -40° C. The solution turned deep purple-red. 1.6 g of sodium bromide is added and the mixture is stirred. A solution of 26.5 g (0.174 mole) m-chlorobenzylchloride in 125 mL of tetrahydrofuran is added while the temperature is maintained at -40° C. The reaction mixture is stirred until the reaction is complete as determined by thin layer chromatography. Water is added to the reaction until the color is dissipated. The reaction mixture is extracted with ethyl acetate, washed with water, and concentrated to a residue. A yield of 92% for the product is shown by chromatography.

reactant | N-(1,1-dimethylethyl)-3-methyl-2-pyridine carboxamide | 31.5 g | CC(C)(C)NC(=O)C1=NC=CC=C1C | C11H16N2O
reactant | n-butyllithium | Two equivalents | C(CCC)[Li]
reactant | sodium bromide | 1.6 g | [Br-].[Na+]
reactant | m-chlorobenzylchloride | 0.174 mole, 26.5 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 3-[2-(3-chlorophenyl)ethyl]-N-(1,1-dimethylethyl)-2-pyridine carboxamide | yield of 92% | ClC=1C=C(C=CC1)CCC=1C(=NC=CC1)C(=O)NC(C)(C)C | C18H21ClN2O
